US05624943
Under the conditions of example 1 C, a solution of 1.89 g of 5-[3-methoxy-2-(2-methoxycarbonyl-(1E)-1-ethenyl)-6-pyridyl]-5-oxopentanoic acid methyl ester in 75 ml of methanol and 15 ml of tetrahydrofuran is hydrogenated in the presence 400 mg of 10% palladium catalyst and worked up. 1.9 g of 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-(5RS)-5-hydroxypentanoic acid methyl ester is obtained as oil.

reactant | 5-[3-methoxy-2-(2-methoxycarbonyl-(1E)-1-ethenyl)-6-pyridyl]-5-oxopentanoic acid methyl ester | 1.89 g | COC(CCCC(=O)C1=CC=C(C(=N1)\C=C\C(=O)OC)OC)=O | C16H19NO6
solvent | methanol | 75 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | palladium | 400 mg | [Pd] | Pd
product | 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-(5RS)-5-hydroxypentanoic acid methyl ester | 1.9 g | COC(CCCC(O)C1=CC=C(C(=N1)CCC(=O)OC)OC)=O | C16H23NO6
